US05986120
The imide HN(SO2CF3), was obtained from the lithium salt. LiN(SO2CF3)2 (10 g, 35 mmole) was added to 50 mL concentrated sulfuric acid. The free imide was distilled at about 90° C., 10 mm Hg and purified by sublimation at about 70° C., 1-2 mm Hg giving 7.4 g (74%) HN(SO2CF3)2. The silver salt was then obtained from the imide. Ag2CO3 (2.0 g, 0.2 mmol) was added slowly to a stirring, solution of HN(SO2CF3)2 (3.5 g, 12.0 mmole) in 25 mL water. The mixture was then digested, wrapped in foil, at 60° C. for 1 h and the excess Ag2CO3 filtered off. The water was removed under vacuum giving white powder of AgNTf2. Dissolution of the powder in diethyl ether (25 mL) followed by filtration and removal of all volatiles under vacuum gave 4.6 g (95%) of white AgNTf2.

reactant | LiN(SO2CF3)2 | 35 mmole, 10 g | [Li]N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | HN(SO2CF3)2 | 7.4 g, 74% | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
